US05955463
Using analogous procedures to those described in Example 1 pentafluorophenyl p-{N-[1-(2,7-dimethyl-4-oxo-3-(pivaloyloxymethyl)-3,4-dihydroquinazolin-6-yl)ethyl]-N-(prop-2-ynyl)amino}benzoate was reacted with methyl (2S)-2-amino-4-(tetrazol-5-yl)butyrate and the resultant methyl butyrate was hydrolysed to give 2- {p-{N-[1-(2,7-dimethyl-4-oxo-3,4-dihydroquinazolin-6-yl)ethyl]-N-(prop-2-ynyl)amino}benzamido}-4-(tetrazol-5-yl)butyric acid in 25% yields m.p. 207° C.

reactant | pentafluorophenyl p-{N-[1-(2,7-dimethyl-4-oxo-3-(pivaloyloxymethyl)-3,4-dihydroquinazolin-6-yl)ethyl]-N-(prop-2-ynyl)amino}benzoate | CC1=NC2=CC(=C(C=C2C(N1COC(C(C)(C)C)=O)=O)C(C)N(CC#C)C1=CC=C(C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C=C1)C | C34H30F5N3O5
reactant | methyl (2S)-2-amino-4-(tetrazol-5-yl)butyrate | N[C@H](C(=O)OC)CCC1=NN=NN1 | C6H11N5O2
reactant | methyl butyrate | C(CCC)(=O)OC | C5H10O2
product | 2- {p-{N-[1-(2,7-dimethyl-4-oxo-3,4-dihydroquinazolin-6-yl)ethyl]-N-(prop-2-ynyl)amino}benzamido}-4-(tetrazol-5-yl)butyric acid | CC1=NC2=CC(=C(C=C2C(N1)=O)C(C)N(CC#C)C1=CC=C(C(=O)NC(C(=O)O)CCC2=NN=NN2)C=C1)C | C27H28N8O4
